US06583135B2
Preparation of 4-Chloro-3-(1H)-indoleglyoxylic Acid Ethyl Ester
To a solution of 4-chloroindole (5.00 g, 33.0 mmol) in dry THF (0.2 L), at 0° C. under argon was added (COCl)2 (3.6 mL, 40.4 mmol). The reaction mixture was stirred overnight while warming to rt, cooled to 0° C., and EtOH (4 mL, 69 mmol) was added. The reaction mixture was stirred at rt overnight, then partitioned between cold 0.2 M aq HCl and EtOAc. The aqueous layer was separated and re-extracted with EtOAc. The EtOAc extracts were washed with saturated aqueous NaHCO3 and brine. The extracts were dried, filtered, and concentrated to give a solid. The solid was purified by silica chromatography to give the title compound: TLC Rf=0.40 (19:1 CH2Cl2/Me2CO); MS (ESI+) m/z 274.0; 1H NMR (300 MHz, CDCl3) δ 9.22 (1H), 8.26 (1H), 7.36 (1H), 7.31 (1H), 7.22 (1H), 4.71 (2H), 1.41 (3H).

reactant | 4-chloroindole | 33.0 mmol, 5.00 g | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | (COCl)2 | 40.4 mmol, 3.6 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | EtOH | 69 mmol, 4 mL | CCO | C2H6O
solvent | THF | 0.2 L | C1CCOC1 | C4H8O
product | 4-Chloro-3-(1H)-indoleglyoxylic Acid Ethyl Ester | C(C)OC(C(=O)C1=CNC2=CC=CC(=C12)Cl)=O | C12H10ClNO3
